US04735940
(ba) A suspension of 31.65 g of 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) in 770 ml of toluene was treated with 10.94 g of methyl propiolate, the mixture was heated under reflux until the reaction has finished, the reaction mixture was evaporated in vacuo and the residue was chromatographed on silica gel with toluene/ethyl acetate (9:1). There was obtained methyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate as yellow crystals of m.p. 116° (from ethyl acetate).

reactant | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | 31.65 g | [OH-].OC1=C(SC2=[N+]1CCC1=C2SC=C1)C1=CC=CC=C1
reactant | methyl propiolate | 10.94 g | C(C#C)(=O)OC | C4H4O2
solvent | toluene | 770 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC)SC=C3 | C19H15NO3S
